US07504401B2
4-[3-Bromo-5-(4-methoxy-benzyloxy)-phenyl]-1-triisopropylsilanyl-1H-indole was coupled with 4-amino-benzonitrile to give 4-[3-(4-methoxy-benzyloxy)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenylamino]-benzonitrile using the conditions of Example 80. This compound was deprotected to give 4-[3-hydroxy-5-(1H-indol-4-yl)-phenylamino]-benzonitrile as described in Example 35. 1H NMR (400 MHz, CD3OD): δ 7.46 (d, J=2.0 Hz, 1H), 7.45 (d, J=2.0 Hz, 1H), 7.35 (d, J=8.0 Hz, 1H), 7.25 (d, J=3.1 Hz, 1H), 7.15-7.11 (m, 3H), 7.06 (dd, J=7.2, 1.0 Hz, 1H), 6.96 (t, J=1.7 Hz, 1H), 6.84 (dd, J=2.1, 1.4 Hz, 1H), 6.66 (t, J=2.1 Hz, 1H), 6.62 (q, J=1.4 Hz, 1H).

reactant | 4-[3-Bromo-5-(4-methoxy-benzyloxy)-phenyl]-1-triisopropylsilanyl-1H-indole | BrC=1C=C(C=C(C1)OCC1=CC=C(C=C1)OC)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C | C31H38BrNO2Si
reactant | 4-amino-benzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
product | 4-[3-(4-methoxy-benzyloxy)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenylamino]-benzonitrile | COC1=CC=C(COC=2C=C(C=C(C2)C2=C3C=CN(C3=CC=C2)[Si](C(C)C)(C(C)C)C(C)C)NC2=CC=C(C#N)C=C2)C=C1 | C38H43N3O2Si
